US09371320B2
F) 3-fluoro-2-(4-methoxy-3-(1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridin-1-yl)benzonitrile
To a solution of 3-fluoro-2-(4-methoxy-3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridin-1-yl)benzonitrile (400 mg) in dichloromethane (4 mL) was added trifluoroacetic acid (1 mL), and the mixture was stirred at room temperature for 5 hr. To the reaction mixture was added aqueous sodium carbonate solution. The organic layer was separated, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (115 mg).

reactant | 3-fluoro-2-(4-methoxy-3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridin-1-yl)benzonitrile | 400 mg | FC=1C(=C(C#N)C=CC1)N1N=C(C=2C(=NC=CC21)OC)C=2C=NN(C2)COCC[Si](C)(C)C | C23H25FN6O2Si
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-fluoro-2-(4-methoxy-3-(1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridin-1-yl)benzonitrile | 115 mg | FC=1C(=C(C#N)C=CC1)N1N=C(C=2C(=NC=CC21)OC)C=2C=NNC2 | C17H11FN6O
